US04402730
6-(2-Chloro-2-propenyloxy)-4-methyl-2-n-hexylamino-pyrimidine
42.0 g 6-Hydroxy-4-methyl-2-n-hexylamino-pyrimidin (0.2 Mol), 27.6 g K2CO3 (0.2 Mol), 24.4 g 2,3-dichloro-1-propene (0.22 Mol) and 150 ml dimethylformamide are charged in a sulphonation flask. The mixture is heated for about 3 hours at a bath temperature of 110°, then cooled to room temperature and thereafter poured in 500 ml water. This mixture is extracted with ether, the ether extract dried with Na2SO4 and concentrated with the aid of a flask rotary vacuum evaporator at a temperature of up to 60°. The impure title compound is obtained as a brown oil, which is purified chromatographically with ether/hexane 1:3 on silicagel to give a yellow oil that slowly crystallises. m.p. 36°-37°.

reactant | 6-Hydroxy-4-methyl-2-n-hexylamino-pyrimidin | 0.2 Mol, 42.0 g | OC1=CC(=NC(=N1)NCCCCCC)C | C11H19N3O
reactant | K2CO3 | 0.2 Mol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-dichloro-1-propene | 0.22 Mol, 24.4 g | ClC(=C)CCl | C3H4Cl2
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 6-(2-Chloro-2-propenyloxy)-4-methyl-2-n-hexylamino-pyrimidine | ClC(COC1=CC(=NC(=N1)NCCCCCC)C)=C | C14H22ClN3O
